US05389625
Ethyl 2-(2-aminothiazol-4-yl)glyoxylate (4.0 g) and Boc-L-alanine (5.67 g) were dissolved in 40 ml of N,N-dimethylformamide (hereafter abbreviated as DMF), and thereto was added 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride (5.74 g) under ice-cooling followed by addition of 4-dimethylaminopyridine (0.4 g). The mixture was stirred at room temperature for 5 hours. Water (400 ml) was added thereto, and the mixture was extracted twice with ethyl acetate (300 ml). The ethyl acetate layer was washed with 10% aqueous solution of citric acid (200 ml), saturated aqueous solution of sodium bicarbonate (200 ml) and saturated brine (200 ml) in this order, and dried over anhydrous sodium sulfate. The ethyl acetate was distilled off under reduced pressure, and the residue was subjected to silica gel column chromatography eluted with benzene-ethyl acetate. The object fraction was concentrated to give 5.30 g of ethyl 2-[2-(Boc-L-alanyl)aminothiazol-4-yl]glyoxylate.

reactant | Ethyl 2-(2-aminothiazol-4-yl)glyoxylate | 4.0 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | Boc-L-alanine | 5.67 g | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)O | C8H15NO4
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride | 5.74 g | Cl.C(C)N=C=NCCCN(C)C
reactant | Water | 400 ml | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.4 g | CN(C1=CC=NC=C1)C | C7H10N2
product | ethyl 2-[2-(Boc-L-alanyl)aminothiazol-4-yl]glyoxylate | 5.30 g | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)NC=1SC=C(N1)C(C(=O)OCC)=O | C15H21N3O6S
